US08138333B2
6-Methyl-1-(phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-7-ol
A 50/50 mixture of DCM/TFA (1 mL) was added to tert-butyl 7-hydroxy-6-methyl-1-(phenylsulfonyl)-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate, Intermediate 15 (16 mg, 0.036 mmol) and the mixture was stirred at room temperature for one hour. The solvent was evaporated at reduced pressure and the crude product was purified by preparative HPLC (Xterra C18, 10 mM NH4CO3 (pH 10)-CH3CN) to give 6.9 mg of the title compound. MS m/z 343 [M+H]+.

reactant | DCM TFA | 1 mL | C(Cl)Cl.C(=O)(C(F)(F)F)O
reactant | tert-butyl 7-hydroxy-6-methyl-1-(phenylsulfonyl)-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | OC1=C2C=3C(=CN(C3C=C1)S(=O)(=O)C1=CC=CC=C1)CCN(C2C)C(=O)OC(C)(C)C | C23H26N2O5S
product | 6-Methyl-1-(phenylsulfonyl)-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-7-ol | 6.9 mg | CC1NCCC2=CN(C3=CC=C(C1=C23)O)S(=O)(=O)C2=CC=CC=C2 | C18H18N2O3S
